US05153210
A mixture 1-benzyl-4-[4-(2,2-ethylene dioxypropyl)phenyl] piperidin-4-ol (3.0 g) and 4-toluenesulphonic acid (1.9 g) in benzene, was heated under reflux for 3 hr. using a Dean and Stark head. The cooled reaction mixture was washed with 1.2M sodium bicarbonate solution (1×50 ml) water, (2×50 ml , dried (magnesium sulphate), filtered, evaporated in vacuo, and chromatographed on silica. Elution with chloroform gave an oil which was dissolved in acetone and treated with 2M hydrochloric acid (5 ml) at room temperature for 4 h. The solvent was removed in vacuo, the residue dissolved in ether, washed with 1.2M sodium hydrogen carbonate (1×50 ml), water (2×50 ml), dried (magnesium sulphate), filtered and evaporated in vacuo to give 4-(1-benzyl-1,2,3,6-tetrahydropyridyl)phenyl propan-2-one, 1.5 g.

reactant | 1-benzyl-4-[4-(2,2-ethylene dioxypropyl)phenyl] piperidin-4-ol | 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CC1(C)OCCO1 | C23H29NO3
reactant | 4-toluenesulphonic acid | 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloric acid | 2M, 5 ml | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(1-benzyl-1,2,3,6-tetrahydropyridyl)phenyl propan-2-one | C(C1=CC=CC=C1)N1C(CC=CC1)C1=CC=C(C=C1)CC(C)=O | C21H23NO
